US09382228B2
A 0° C. mixture of 2,4-dimethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine (285 mg, 0.876 mmol) and NH4Cl (1.87 g, 35 mmol) in MeOH (5 mL) and THF (5 mL) was treated portion-wise with zinc dust (573 mg, 8.76 mmol), allowed to warm to RT and stirred overnight. The mixture was diluted with EtOAc, warmed slightly, the solids removed via filtration through diatomaceous earth and washed with EtOAc. The filtrate was concentrated to dryness and purified via silica gel chromatography (MeOH/EtOAc) to afford 4,6-dimethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine (156 mg, 60%) as a white amorphous solid. 1H NMR (400 MHz, DMSO-d6): δ 8.30 (d, J=5.7 Hz, 1H), 8.23 (s, 1H), 7.93 (s, 1H), 7.10 (d, J=2.4 Hz, 1H), 6.44 (dd, J=5.7, 2.4 Hz, 1H), 6.22 (s, 1H), 5.81 (s, 2H), 3.84 (s, 3H), 2.02 (s, 3H), 1.92 (s, 3H); MS (ESI) m/z: 296.1 (M+H+).

reactant | 2,4-dimethyl-3-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)-6-nitropyridine | 0.876 mmol, 285 mg | CC1=NC(=CC(=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)C)[N+](=O)[O-] | C16H15N5O3
reactant | NH4Cl | 35 mmol, 1.87 g | [NH4+].[Cl-]
solvent | MeOH | 5 mL | CO | CH4O
solvent | THF | 5 mL | C1CCOC1 | C4H8O
solvent | EtOAc | CCOC(=O)C | C4H8O2
catalyst | zinc | 8.76 mmol, 573 mg | [Zn] | Zn
product | 4,6-dimethyl-5-((2-(1-methyl-1H-pyrazol-4-yl)pyridin-4-yl)oxy)pyridin-2-amine | 156 mg, 60% | CC1=CC(=NC(=C1OC1=CC(=NC=C1)C=1C=NN(C1)C)C)N | C16H17N5O
